US07923577B2
Preparation of (2S,5R)—N-[4-(2-Amino-2-oxoethyl)phenyl]-5-methyl-2-(propan-2-yl)cyclohexanecarboxamide
The p-Menthane-3-carboxylic acid (obtained according to publication: Desmond Cunningham, Eva T. Gallagher, David H. Grayson, Patrick J. McArdle, Christina B. Storey, Deborah J. Wilcock; J. Chem. Soc., Perkin Trans. 1, 2002, 2692-2698), (2.5 g, 13.5 mmol) was heated under reflux with thionyl chloride (Alfa Aesar) (7 mL) for three hours. Then the excess of thionyl chloride was distilled off in vacuo. Residue was dissolved in CH2Cl2 (30 mL). This solution was added drop wise to the mixture of 4-aminophenylacetamide (2.2 g, 13.5 mmol) and triethylamine (1.8 g, 17.8 mmol) at 0° C. After ten minutes the solution was allowed to warm to room temperature. After 1 hour GC showed that reaction is completed. CH2Cl2 (50 mL) was added to the reaction and this mixture was washed by 0.1 N HCl aq, water, 0.1 N NaOH aq, by brine and dried over MgSO4. The mixture was then filtrated and evaporated give white solid which was crystallized from hot ethyl acetate providing 3 g (65%) product as white solid. C19H28N2O2 (MW 316.22); 1H NMR (500 MHz, DMSO-d6) δ: 9.79 (s, 1H), 7.51 (d, 2H, J=8.41), 7.36 (br s, 1H), 7.15 (d, 2H, J=8.41 Hz), 6.82 (br s, 1H), 3.30 (s, 2H), 2.30 (t, 1H, J=11.43 Hz of d, J=3.19 Hz), 1.70-1.77 (m, 2H), 1.61-1.68 (m, 2H), 1.51 (t, 1H, J=11.5 Hz, of t, J=2.8 Hz), 1.33-1.38 (brs, 1H), 1.17 (q, 1H, J=12.16 Hz), 1.02 (q, 1H, J=12.7 Hz, of d, J=2.7 Hz) 0.89-0.96 (m, 1H), 0.88 (d, 3H, J=6.5 Hz), 0.85 (d, 3H, J=6.9 Hz), 0.79 (d, 3H, J=6.9 Hz).

reactant | p-Menthane-3-carboxylic acid | 13.5 mmol, 2.5 g | C1(CC(C(CC1)C(C)C)C(=O)O)C | C11H20O2
reactant | thionyl chloride | 7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-aminophenylacetamide | 13.5 mmol, 2.2 g | NC1=CC=C(C=C1)CC(=O)N | C8H10N2O
reactant | triethylamine | 17.8 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)—N-[4-(2-Amino-2-oxoethyl)phenyl]-5-methyl-2-(propan-2-yl)cyclohexanecarboxamide | NC(CC1=CC=C(C=C1)NC(=O)C1[C@@H](CC[C@H](C1)C)C(C)C)=O | C19H28N2O2
